US07816526B2
Synthesis of 6-chloro-2-trifluoromethylimidazo[1,2-b]pyridazin-3-ylsulfonamide
6-Chloro-2-trifluoromethylimidazo[1,2-b]pyridazine (6.00 g, 27.1 mmol) was dissolved in 1,1,2,2-tetrachloroethane (60.0 ml), and chlorosulfonic acid (97%, 2.80 ml, 40.7 mmol) was added to the solution with stirring at room temperature. The mixture was heated for 8 hours under reflux and then cooled to room temperature, and triethylamine (4.39 g, 43.4 mmol) and phosphorus oxychloride (7.47 g, 48.7 mmol) were added dropwise thereto. The reaction mixture was heated at 120° C. for 3 hours with stirring and then cooled to 50° C., and water (150 ml) was added thereto. After the reaction solution was partitioned, the aqueous layer was extracted twice with chloroform, and the organic layers were combined, washed twice with water, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residues were dissolved in acetonitrile (100 ml) and stirred at room temperature, during which ammonia water (14 M, 9.00 ml, 126 mmol) was added thereto. The reaction solution was stirred at room temperature for 2 hours, poured into ice-water (400 ml) and adjusted to pH 2 with conc. hydrochloric acid, to precipitate crystals which were then filtered and washed with water. The crystals were dried and then purified by silica gel chromatography (ethyl acetate:chloroform=1:9→1:4→1:2), to give the title compound as colorless crystals. The yield was 3.80 g (46.6%).

reactant | 6-Chloro-2-trifluoromethylimidazo[1,2-b]pyridazine | 27.1 mmol, 6.00 g | ClC=1C=CC=2N(N1)C=C(N2)C(F)(F)F | C7H3ClF3N3
reactant | chlorosulfonic acid | 40.7 mmol, 2.80 ml | ClS(=O)(=O)O | ClHO3S
reactant | triethylamine | 43.4 mmol, 4.39 g | C(C)N(CC)CC | C6H15N
reactant | phosphorus oxychloride | 48.7 mmol, 7.47 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | ammonia water | 126 mmol, 14 M, 9.00 ml | O.N
reactant | hydrochloric acid | Cl | ClH
solvent | 1,1,2,2-tetrachloroethane | 60.0 ml | ClC(C(Cl)Cl)Cl | C2H2Cl4
solvent | water | 150 ml | O | H2O
product | 6-chloro-2-trifluoromethylimidazo[1,2-b]pyridazin-3-ylsulfonamide | ClC=1C=CC=2N(N1)C(=C(N2)C(F)(F)F)S(=O)(=O)N | C7H4ClF3N4O2S
